US04325953
2-(1-Methyl-4-phenyl-4-piperidinyloxy)quinoline
A solution of 1-methyl-4-phenyl-4-piperidinol (7.65 g, 40 mM) in DMSO (50 ml) was treated with 50% sodium hydride dispersion (2 g, 40 mM) and warmed to 80° until a homogenous solution was obtained. After cooling to room temperature, the mixture was treated with a solution of 2-chloroquinoline (6.55 g, 40 mM) in DMSO (10 ml). After 24 hours the mixture was poured on to water (250 ml) and extracted with toluene (3×250 ml). After drying and evaporation of the solvents, the residue crystallised from cyclohexane to give recovered 1-methyl-4-phenyl-4-piperidinol (2.7 g). Chromatography of the mother liquors on Grade III silica, using 3% methanol in chloroform as eluant gave the title compound (3 g) contaminated with a small quantity of 2-quinolone which was removed by crystallisation from cyclohexane. Recrystallisation of the mother liquors from pentane gave the title compound (1.2 g) m.p. 80°-1° C.

reactant | 1-methyl-4-phenyl-4-piperidinol | 40 mM, 7.65 g | CN1CCC(CC1)(O)C1=CC=CC=C1 | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloroquinoline | 40 mM, 6.55 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | water | 250 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-(1-Methyl-4-phenyl-4-piperidinyloxy)quinoline | 3 g | CN1CCC(CC1)(OC1=NC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C21H22N2O
